US04661147
2-Aminosulfonylbenzoic acid, 2-hydroxyethyl ester
Hydrogen chloride gas was passed through a mixture of 54.9 g of saccharin and 500 ml of ethylene glycol for 11/2 hours. The mixture, which had warmed to 41° C., was then stirred at ambient temperature for 65 hours. The resulting solution was poured into 2 liters of ice water and the product extracted with ethyl acetate. The extracts were washed with water, dried (MgSO4), and the solvent removed under reduced pressure to give a colorless oil which slowly crystallized. The white solid was triturated with n-butylchloride to give 44.9 g of the title compound, m.p. 84°-86.5° C.

reactant | Hydrogen chloride | Cl | ClH
reactant | saccharin | 54.9 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | ethylene glycol | 500 ml | C(CO)O | C2H6O2
product | 2-Aminosulfonylbenzoic acid, 2-hydroxyethyl ester | 44.9 g | NS(=O)(=O)C1=C(C(=O)OCCO)C=CC=C1 | C9H11NO5S
